US06921759B2
Step 1: Preparation of 5-(methylsulfonyl)-1,2,5-thiadiazepane 1,1-dioxide
To a solution of 1,2,5-thiadiazepane 1,1-dioxide (0.10 g, 0.67 mmol) in methylene chloride (2 mL) at −10 C was added methane sulfonyl chloride (0.06 mL, 0.77 mmol) and triethylamine (0.108 mL, 0.77 mmol). After 72 hr the reaction was quenched with NaHCO3 (sat. aq.) and extracted into methylene chloride. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The residue was purified by chromatography (SiO2, EtOAc/CH2Cl2: 1:1) to afford the title compound as a white solid.

reactant | 1,2,5-thiadiazepane 1,1-dioxide | 0.67 mmol, 0.10 g | S1(NCCNCC1)(=O)=O | C4H10N2O2S
reactant | methane sulfonyl chloride | 0.77 mmol, 0.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.77 mmol, 0.108 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(methylsulfonyl)-1,2,5-thiadiazepane 1,1-dioxide | CS(=O)(=O)N1CCNS(CC1)(=O)=O | C5H12N2O4S2
